US04996318
A solution of pyrrolidine (80 g) in THF (500 ml) is chilled in an ice water bath and stirred mechanically under nitrogen. With a syringe pump of 2,4,6-trichloropyrimidine (50 g) is added over 35 minutes. The reaction is stirred in the ice bath for 1 hour and is then warmed to 20-25° over 4 h. Pyridine (100 ml) is added to the reaction and the mixture stirred at 20-25° overnight. The reaction is concentrated. The residue is partitioned between methylene chloride and aqueous sodium bicarbonate. The organic phase is concentrated and the residue chromatographed on silica gel (10% ethyl acetate/hexane) to yield 51 g of crystalline 2,4-bis[pyrrolidino]-6-chloropyrimidine. Immediately after the initial addition of reagents, two spots are seen with 25% ethyl acetate on a silica gel plate. These are the 2- and the 4- adducts. The bis product forms over time. It moves between these first two spots. The 51 g of product is reacted with piperazine (40 g) in 100 ml of dry pyridine at 100° for 50 h. The reaction is concentrated. The residue is partitioned between methylene chloride and sodium bicarbonate solution. The organic phase is dried and concentrated. The residue is chromatographed on silica gel eluting with methylene chloride to 10% methanol/1% ammonia/methylene chloride to give the title compound, NMR (CDCl3) 1.90, 2.9, 3.35 and 4.80 δ.

reactant | pyrrolidine | 80 g | N1CCCC1 | C4H9N
reactant | 2,4,6-trichloropyrimidine | 50 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | Pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 2,4-bis[pyrrolidino]-6-chloropyrimidine | 51 g | N1(CCCC1)C1=NC(=CC(=N1)N1CCCC1)Cl | C12H17ClN4
